US07741326B2
1-[5-Fluoro-3-(3-fluoro-benzyl)-7-(1-triisopropylsilanyl-1H-pyrrol-3-yl)-benzofuran-2-yl]-ethanone (0.38 gm, 0.748 mmol) and tetrabutylammonium fluoride hydrate (0.28 gm, 0.89 mmol) were added to tetrahydrofuran (10 ml) and stirred at room temperature for four hours. The solution was concentrated under reduced pressure and purified by column chromatography to give 1-[5-fluoro-3-(3-fluoro-benzyl)-7-(1H-pyrrol-3-yl)-benzofuran-2-yl]-ethanone (0.205 gm, 79% yield).

reactant | 1-[5-Fluoro-3-(3-fluoro-benzyl)-7-(1-triisopropylsilanyl-1H-pyrrol-3-yl)-benzofuran-2-yl]-ethanone | 0.748 mmol, 0.38 gm | FC=1C=C(C2=C(C(=C(O2)C(C)=O)CC2=CC(=CC=C2)F)C1)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C30H35F2NO2Si
reactant | tetrabutylammonium fluoride hydrate | 0.89 mmol, 0.28 gm | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[5-fluoro-3-(3-fluoro-benzyl)-7-(1H-pyrrol-3-yl)-benzofuran-2-yl]-ethanone | 0.205 gm, 79% yield | FC=1C=C(C2=C(C(=C(O2)C(C)=O)CC2=CC(=CC=C2)F)C1)C1=CNC=C1 | C21H15F2NO2
